US06008230
A suspension of 8-(2,6-dichlorobenzoylamino)-4-hydrazinoquinoline (200 mg) and methyl isothiocyanate (54.8 mg) in ethylene chloride (4 ml) was stirred for 2 hours at ambient temperature and then gently refluxed for 24 hours. The mixture was concentrated in vacuo, and the residue was recrystallized from ethanol to give 8-(2,6-dichlorobenzoylamino)-4-[4-(methyl)thiosemicarbazido]quinoline (213 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-4-hydrazinoquinoline | 200 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)NN)C(=CC=C1)Cl | C16H12Cl2N4O
reactant | methyl isothiocyanate | 54.8 mg | CN=C=S | C2H3NS
solvent | ethylene chloride | 4 ml | C(CCl)Cl | C2H4Cl2
product | 8-(2,6-dichlorobenzoylamino)-4-[4-(methyl)thiosemicarbazido]quinoline | 213 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)NNC(=S)NC)C(=CC=C1)Cl | C18H15Cl2N5OS
